US08258160B2
Synthesis of N-benzyl-4-methyl-2-(4-(pyridin-3-yl)-1H-1,2,3-triazol-1-yl)thiazole-5-carboxamide
Following the procedure as described in Example 10, making variations as necessary to replace phenylacetylene with 3-ethynylpyridine to react with 2-azido-N-benzyl-4-methylthiazole-5-carboxamide, the title compound was obtained as a white solid in 13% yield: mp 117-119° C. (methanol/hexanes); 1H NMR (300 MHz, DMSO-d6) δ 9.65 (s, 1H), 9.04 (t, J=3.0 Hz, 1H), 8.42 (d, J=6.0 Hz, 1H), 7.71 (d, J=6.0 Hz, 1H), 7.39-7.27 (m, 7H), 4.48 (d, J=6.0 Hz, 2H), 2.66 (s, 3H); MS (ES+) m/z 377.3 (M+1).

reactant | phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
reactant | 3-ethynylpyridine | C(#C)C=1C=NC=CC1 | C7H5N
reactant | 2-azido-N-benzyl-4-methylthiazole-5-carboxamide | N(=[N+]=[N-])C=1SC(=C(N1)C)C(=O)NCC1=CC=CC=C1 | C12H11N5OS
product | N-benzyl-4-methyl-2-(4-(pyridin-3-yl)-1H-1,2,3-triazol-1-yl)thiazole-5-carboxamide | 13% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1N=NC(=C1)C=1C=NC=CC1)C | C19H16N6OS
